US07842357B2
2-Ethyl-5-(4′-propyl-bicyclohexyl-4-yl)tetrahydropyran was synthesized same as example 1 in place of (4-pentylcyclohexyl)acetaldehyde making use of (4′-Propyl-bicyclohexyl-4-yl)acetaldehyde.

reactant | (4-pentylcyclohexyl)acetaldehyde | C(CCCC)C1CCC(CC1)CC=O | C13H24O
reactant | (4′-Propyl-bicyclohexyl-4-yl)acetaldehyde | C(CC)C1CCC(CC1)C1CCC(CC1)CC=O | C17H30O
product | 2-Ethyl-5-(4′-propyl-bicyclohexyl-4-yl)tetrahydropyran | C(C)C1OCC(CC1)C1CCC(CC1)C1CCC(CC1)CCC | C22H40O
